US09422244B2
0.70 g (1 mol equiv.) 4,N-Diethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester and 0.68 g (1.05 mol equiv.) trans-2-phenyl-ethenesulfonic acid amide were added to 7 mL acetonitrile, and the reaction mixture was refluxed overnight. Volatiles were removed under reduced pressure, and the residue was taken up in ethyl acetate and extracted with 2N NaOH. The organic layer was dried over Na2SO4, filtered and evaporated to dryness. Purification by flash chromatography on silica gel (Et2O:PA=2:1) afforded 1.00 g (81%) trans-2-phenyl-ethenesulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide. 1H NMR (400 MHz, CDCl3) δ 0.98 (t, J=7.5 Hz, 3H), 1.21 (t, J=7.2 Hz, 3H), 1.46-1.70 (m, 2H), 3.06-3.16 (m, 1H), 3.51-3.59 (m, 2H), 3.74 (dd, J=11.3, 7.5 Hz, 1H), 4.13 (t, J=11.3 Hz, 1H), 6.70-6.92 (m, 1H), 6.92 (d, J=1.3 Hz, 1H), 6.97 (d, J=15.4 Hz, 1H), 7.35-7.41 (m, 3H), 7.44 (d, J=15.4 Hz, 1H), 7.46-7.50 (m, 2H).

reactant | 4,N-Diethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester | 1 mol, 0.70 g | CSC(=NCC)N1N=CC(C1)CC | C9H17N3S
reactant | trans-2-phenyl-ethenesulfonic acid amide | 1.05 mol, 0.68 g | C1(=CC=CC=C1)/C=C/S(=O)(=O)N | C8H9NO2S
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | trans-2-phenyl-ethenesulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide | 1.00 g, 81% | C(C)NC(=NS(=O)(=O)\C=C\C1=CC=CC=C1)N1N=CC(C1)CC | C16H22N4O2S
